US07435837B2
(±)-[(N-methyl-1-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.250 g, 76%) following the general procedure of Example 154 as a white solid, hydrochloride salt from (±)-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.501 g, 1.22 mmol) and methylamine (4.56 g, 150.0 mmol). mp 157-159° C.

reactant | (±)-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.22 mmol, 0.501 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)OC | C23H22O5S
reactant | methylamine | 150.0 mmol, 4.56 g | CN | CH5N
product | N-methyl-1-[7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)OC | C17H19NO2
